US06552069B1
Diethyl azodicarboxylate (5.94 ml) was added dropwise to an ice-cold solution of (2RS,3RS)-3-(2-hydroxy-4-methoxymethoxyphenyl)-2-(4-methoxymethoxyphenyl)-2-methyl-5-hexen-1-ol (6.9 g) and triphenylphosphine (11.24 g) in anhydrous 1,4-dioxane (120 ml) over 25 minutes under nitrogen atmosphere. The reaction mixture was stirred for 20 minutes at room temperature. Water was added to the reaction mixture, which was then extracted twice with ethyl acetate. The combined organic layers were dried over magnesium sulfate and concentrated to give a crude product, which was then purified by flash column chromatography (silica gel: Merck Kieselgel 60, eluent: hexane/ethyl acetate=100/1→20/1→9/1) to give (3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methyl-4-(2-propenyl)chroman (6.5 g, Yield 98.6%) as a colorless oil.

reactant | Diethyl azodicarboxylate | 5.94 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (2RS,3RS)-3-(2-hydroxy-4-methoxymethoxyphenyl)-2-(4-methoxymethoxyphenyl)-2-methyl-5-hexen-1-ol | 6.9 g | OC1=C(C=CC(=C1)OCOC)C(C(CO)(C)C1=CC=C(C=C1)OCOC)CC=C | C23H30O6
reactant | triphenylphosphine | 11.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | O | H2O
solvent | 1,4-dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | (3RS,4RS)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methyl-4-(2-propenyl)chroman | 6.5 g, Yield 98.6% | COCOC1=CC=C2C(C(COC2=C1)(C)C1=CC=C(C=C1)OCOC)CC=C | C23H28O5
